US08211920B2
Methyl 5-cyano-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate
Methyl 5-cyano-2-(2-fluoro-4-(methylthio)phenylamino-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate: A mixture of methyl 5-bromo-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.020 g, 0.050 mmol), tris(dibenzylideneacetone)-dipalladium(0) (0.046 g, 0.050 mmol), 1,1′-bis(diphenylphosphine)-ferrocene (0.055 g, 0.100 mmol) and Zn(CN)2 (0.006 g, 0.055 mmol) was heated at 120° C. for 2 hours. The reaction mixture was diluted with EtOAc and H2O and the layers separated. The EtOAc layer was washed with saturated NH4Cl and saturated NaCl, dried (Na2SO4) and concentrated under reduced pressure to a dark yellow gum. Purification by flash column chromatography (methylene chloride/EtOAc, 10:1) gave 0.005 g (29%) pure desired product as a yellow solid. MS APCI (−) m/z 346 (M−1) detected; 1H NMR (400 MHz, CDCl3) δ 10.84 (s, 1H), 8.39 (s, 1H), 6.95-7.06 (m, 3H), 3.90 (s, 3H), 3.17 (s, 3H), 2.50 (s, 3H).

reactant | 2-fluoro-4-(methylthio)phenylamino-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | FC=1N(C(C(=C(C1C(=O)[O-])SC)NC1=CC=CC=C1)=O)C
reactant | methyl 5-bromo-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.050 mmol, 0.020 g | BrC1=CC(=C(N(C1=O)C)NC1=C(C=C(C=C1)SC)F)C(=O)OC | C15H14BrFN2O3S
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.050 mmol, 0.046 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Zn(CN)2 | 0.055 mmol, 0.006 g | [C-]#N.[C-]#N.[Zn+2]
product | Methyl 5-cyano-2-(2-fluoro-4-(methylthio)phenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.005 g, 29% | C(#N)C1=CC(=C(N(C1=O)C)NC1=C(C=C(C=C1)SC)F)C(=O)OC | C16H14FN3O3S
